US06458810B1
To a stirred solution of 1-tert-butoxycarbonyl]-3-(4-nitro-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine (2.0 g, 4.3 mmol) in tetrahydrofuran (20 mL) is added sodium bis(trimethylsilyl)amide (4.3 mL, 4.3 mmol, 1.0 M) in tetrahydrofuran at −78° C. After 10-30 minutes, N-fluorobenzenesulfonimide (1.1 g, 4.3 mmol) is added to the mixture. The mixture is warmed to room temperature and the solvent is removed in vacuo. The residue is stirred with ethyl acetate (10 mL) and hydrochloric acid (10 mL, 1N) for 1 hour, the organic layer is separated, and the solvent is removed in vacuo to give 3-fluoro-3-(4-nitro-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine which is further purified by column chromatography.

reactant | 3-(4-nitro-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine | 4.3 mmol, 2.0 g | [N+](=O)([O-])C1=C2C(N(C(C2=CC=C1)=O)C1C(NC(C(C1)OC(C)=O)=O)=O)=O | C15H11N3O8
reactant | sodium bis(trimethylsilyl)amide | 4.3 mmol, 1.0 M, 4.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | N-fluorobenzenesulfonimide | 4.3 mmol, 1.1 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-fluoro-3-(4-nitro-1,3-dioxoisoindolin-2-yl)-2,6-dioxo-5-acetoxypiperidine | FC1(C(NC(C(C1)OC(C)=O)=O)=O)N1C(C2=CC=CC(=C2C1=O)[N+](=O)[O-])=O | C15H10FN3O8
